US06949579B2
0.23 cm3 of butyryl chloride is added to 1 g of 4-chloro-1H-indazole-3-amine, prepared as described in patent EP 90 972, in 10 cm 3 of pyridine, cooled to about 10° C. The temperature is allowed to return to about 19° C. over 17 hours. The reaction medium is evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed with 2×25 cm3 of distilled water and with 25 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume) and collecting 30 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). 80 mg of N-[4-chloro-1H-indazol-3-yl]butanamide are thus obtained in the form of a white solid melting at 198° C.

reactant | butyryl chloride | 0.23 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 4-chloro-1H-indazole-3-amine | 1 g | ClC1=C2C(=NNC2=CC=C1)N | C7H6ClN3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[4-chloro-1H-indazol-3-yl]butanamide | 80 mg | ClC1=C2C(=NNC2=CC=C1)NC(CCC)=O | C11H12ClN3O
